US07947851B2
Step a) Formation of 4-fluoro-3-(methoxycarbonyl)benzoic acid
To a solution of methyl-2-fluoro-5-formylbenzoate (2 g, 0.0109 mol) in dry DMF (75 mL) was added oxone (Aldrich, 6.75 g, 0.0109 mol) and the reaction mixture was stirred for 3 h at room temperature. The reaction mixture was then quenched with 1.5M.HCl (50 mL) and the product was extracted with ethyl acetate (2×50 mL). The combined organic layers were washed with water, brine, dried over magnesium sulfate filtrated and concentrated to give 1.7 g (78%) of the titled compound as a solid. TLC: Chloroform/methanol (9/1), Rf=0.2, HPLC purity >99%. 1H NMR (DMSO) δ: 8.44 (m, 1H), 8.19 (m, 1H), 7.48 (m 1H), 3.88 (s, 1H).

reactant | methyl-2-fluoro-5-formylbenzoate | 0.0109 mol, 2 g | COC(C1=C(C=CC(=C1)C=O)F)=O | C9H7FO3
reactant | oxone | 0.0109 mol, 6.75 g | OOS(=O)[O-].[K+]
solvent | DMF | 75 mL | CN(C)C=O | C3H7NO
product | 4-fluoro-3-(methoxycarbonyl)benzoic acid | 1.7 g, 78% | FC1=C(C=C(C(=O)O)C=C1)C(=O)OC | C9H7FO4
